US07498337B2
tributyl(2-thienyl)stannane
A solution (10 mL) of 2-bromothiophene (1.0 g) in tetrahydrofuran was cooled to −70° C., and a 1.6 mol/L solution (4.2 mL) of n-butyllithium in hexane was added dropwise. After stirring at the same temperature for 30 min, tributyltin chloride (2.1 g) was added dropwise. After further stirring for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residual oil (2.4 g) containing the title compound was used for the next step without purification.

reactant | 2-bromothiophene | 10 mL, 1.0 g | BrC=1SC=CC1 | C4H3BrS
reactant | n-butyllithium | C(CCC)[Li]
reactant | tributyltin chloride | 2.1 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | tributyl(2-thienyl)stannane | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC | InChI=1S/C4H3S.3C4H9.Sn/c1-2-4-5-3-1;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
